US09382356B2
(iii) Synthesis of dibenzylmethylene(cyclopentadienyl)(2,7-di[o-tolyl]-3,6-ditert-butylfluorenyl)zirconium dichloride
Under a nitrogen atmosphere, a 50-mL Schlenk flask was charged with 0.36 g (0.50 mmol) of dibenzylmethylene(cyclopentadienyl)(2,7-di[o-tolyl]-3,6-ditert-butylfluorene) and 25 mL of dehydrated diethyl ether, and the mixture was stirred. This mixed slurry solution was cooled in an ice bath, 0.72 mL (1.09 mmol) of a 1.52 mol/L hexane solution of n-butyllithium was added, and the mixture was stirred for 40 hours while gradually warming to room temperature. This red reaction solution was cooled to −78° C. in a dry ice/methanol bath, and then 0.251 g (1.08 mmol) of zirconium tetrachloride was added. Subsequently, the mixture was stirred for 17 hours while gradually warming to room temperature to obtain a red-orange suspension. The solvent was dried under reduced pressure. Under a nitrogen atmosphere, the residue was dissolved in n-hexane, and the liquid was passed through a glass filter filled with Celite, insolubles were washed with n-hexane, and the orange powder insoluble in n-hexane was subjected to extraction with dichloromethane. The solvent in which the dichloromethane-solubles were dissolved was distilled off. The residue was washed with diethyl ether/cold n-pentane and dried to obtain a target product as a dark pink powder (yield 167 mg (38%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | dibenzylmethylene(cyclopentadienyl)(2,7-di[o-tolyl]-3,6-ditert-butylfluorene) | 0.50 mmol, 0.36 g | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=C(C=CC=C1)C)C1C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C55H54
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | zirconium tetrachloride | 1.08 mmol, 0.251 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | hexane | 1.52 mol/L | CCCCCC | C6H14
product | dibenzylmethylene(cyclopentadienyl)(2,7-di[o-tolyl]-3,6-ditert-butylfluorenyl)zirconium dichloride | yield 167 mg, 38% | [Cl-].[Cl-].C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=[Zr+2](C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=C(C=CC=C1)C)C(C)(C)C)C(C)(C)C)C1=C(C=CC=C1)C)C1C=CC=C1 | InChI=1S/C35H37.C15H14.C5H5.2ClH.Zr/c1-22-13-9-11-15-26(22)30-18-24-17-25-19-31(27-16-12-10-14-23(27)2)33(35(6,7)8)21-29(25)28(24)20-32(30)34(3,4)5;1-3-8-14(9-4-1)12-7-13-15-10-5-2-6-11-15;1-2-4-5-3-1;;;/h9-16,18,20-21H,17H2,1-8H3;1-6,8-11H,12-13H2;1-5H;2*1H;/q;;;;;+2/p-2
